****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

* Version: SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 2

.SUBCKT zmm9v1 1 2
DF 1 2 DFMOD
.MODEL DFMOD D(N=1.19275 IS=2.18787E-013 RS=1.03072 EG=1.11167 XTI=3.05573
+ TT=1E-006 CJO=8.57E-011 VJ=0.13 M=0.33)
* Leakage
RL 1 2 7E+007 RLMOD
.MODEL RLMOD R(TC1=0 TC2=0 TNOM=25)
* Breakdown
EZ 2 3 9 0 1
VZC 4 3 0.455281
D1 4 5 DMOD1 TEMP=27
.MODEL DMOD1 D(IS=1e-12 N=0.790089 RS=1.00124 TNOM=27)
VD 6 5 0.000417595
D2 6 1 DMOD2 TEMP=27
.MODEL DMOD2 D(IS=1e-12 N=1.0001 TNOM=27)
ID 5 1 0.116949
RD 5 1 0.00776992
I1 0 9 0.001
RVZ 9 0 9100 RVZMOD
.MODEL RVZMOD R(TC1=0.00065 TC2=0 TNOM=25)

.ENDS
