****************************************
* (c)2000 Thomatronik GmbH             *
*   info@thomatronik.de                *
*                                      *
* Author: Arpad Buermen                *
*   Arpad.Burmen@ieee.org              *
*   Arpad.Buermen@fe.uni-lj.si         *
****************************************

* Version: SPICE3
*                    anode     cathode
* Reverse direction: node 1 <- node 2

.SUBCKT zpy5v1 1 2
DF 1 2 DFMOD
.MODEL DFMOD D(N=0.846663 IS=1E-016 RS=0.28237 EG=1.11 XTI=3
+ TT=1E-006 CJO=1E-010)
* Leakage
RL 1 2 1.4E+006 RLMOD
.MODEL RLMOD R(TC1=0 TC2=0 TNOM=25)
* Breakdown
EZ 2 3 5 0 1
R1 3 4 0.0355324
VD1 10 4 1.75204
D1 10 1 DMOD1 TEMP=27
.MODEL DMOD1 D(IS=1e-12 N=1.13145 RS=77.068 TNOM=27)
VD2 20 4 1.05906
D2 20 1 DMOD2 TEMP=27
.MODEL DMOD2 D(IS=1e-12 N=1.00127 RS=16.532 TNOM=27)
VD3 30 4 0.625442
D3 30 1 DMOD3 TEMP=27
.MODEL DMOD3 D(IS=1e-12 N=0.781334 RS=2.06803 TNOM=27)
I1 0 5 0.001
RVZ 5 0 5100 RVZMOD
.MODEL RVZMOD R(TC1=-5E-005 TC2=0 TNOM=25)
.ENDS
