*****************************************************************
* Library for SIEMENS Power Diodes	V1.0  	      01/26/98   *
*										     *
* Models provided by SIEMENS are not warranted by SIEMENS as    *
* fully representing all of the specifications and operating    *
* characteristics of the semiconductor product to which the     *
* model relates. The model describe the characteristics of a    * 
* typical device.                                               * 
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Altough models can be a useful tool in evaluating device      *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. SIEMENS therefore does not   *
* assume any liability arising from their use.                  *
* SIEMENS reserves the right to change models without prior     * 
* notice.                                                       *
*                                                               * 
* content:									     *
* BYP 103							   	           *
* BYP 301							                 *
* BYP 302							                 *
* BYP 303							                 *
*                    						           *
* This model is solely valid at room-temperature                *
* 								                 *
* The basics of the diode model used in this template can be    *
* found in							                 *
*	R. Kraus, K. Hoffmann, P. Türkes			           *
*	Reverse Recovery Model of Power Diodes			     *
*	EPE-MADEP Proceedings O - 343 (1991)			     *
*     and the papers cited therein					     *
*								                 *
*****************************************************************
* Pins are labeled according to standard	+ -> -		     *
*                                                               *
* Include for Simulation:				                 *
* .LIB "dio_pw.lib"  (PSPICE)				                 *
*                                                               *
*                                                               *
* Subcircuit call for simulation:	                             *
* Xdio  p1 p2 BYPxxx	 (PSPICE)                               *
*****************************************************************
.SUBCKT BYP103   ANODE    KATODE    PARAMS:
+
+TT        =         200n     ; bestimmt Hoehe der Rueckstromspitze
+TM        =         150n     ; bestimmt Abrissteilheit des Rueckstroms
+VTA       =         0.026    ; Vta = K*T/q
+Is        =         1e-5     ; Abschaetzen aus der Diodenkennlinie
+N         =         2        ;    "   "   "   "   "   "   "   "
+R_reih    =         25m      ;    "   "   "   "   "   "   "   "
+Cjc       =         1.5nF    ; Dem Datenblatt zu entnehmen
+Mj        =         .7       ; default
+Vj        =         .6       ; default
+Ls        =         1n       ; parasitaere Induktivitaet
+Rs        =         1        ; parasitaerer Widerstand
+BV        =         1000     ; Blockierspannung
**********************************************************************
*
R_diode    ANODE     an_1     {R_reih}
L_streu    an_1      an_2     {Ls}   
G_diode    an_2      KATODE   VALUE = {(V(1)-I(V_mess))/TM}
**********************************************************************
***  HILFSNETZWERK  ***
**********************************************************************
*
E_e        1         0        TABLE { V(an_2,KATODE)*TT } = (-1k,-1e-14) (0,0) (10,10K)
R_dif      1         2        {(TT+TM)/TT}
L_dif      2         3        {TM}  IC=0
V_mess     3         0        0V
**********************************************************************
***  SPERRSCHICHTKAPAZITAET  ***
**********************************************************************
*
D_kap      an_2      KATODE   D_Sperr
.MODEL     D_Sperr   D(IS={Is} CJO={Cjc} VJ={Vj} M={Mj} N={N} Rs=0.001 FC=1 BV={BV})
**********************************************************************
.ends
*
*
**********************************************************************

**********************************************************************
.SUBCKT BYP303   ANODE    KATODE    PARAMS:
+
+TT        =         200n     ; bestimmt Hoehe der Rueckstromspitze
+TM        =         150n     ; bestimmt Abrissteilheit des Rueckstroms
+VTA       =         0.026    ; Vta = K*T/q
+Is        =         1e-5    ; Abschaetzen aus der Diodenkennlinie
+N         =         2        ;    "   "   "   "   "   "   "   "
+R_reih    =         25m      ;    "   "   "   "   "   "   "   "
+Cjc       =         1.4nF    ; Dem Datenblatt zu entnehmen
+Mj        =         .7       ; default
+Vj        =         .6       ; default
+Ls        =         1n       ; parasitaere Induktivitaet
+Rs        =         1        ; parasitaerer Widerstand
+BV        =         1200     ; Blockierspannung
**********************************************************************
*
R_diode    ANODE     an_1     {R_reih}
L_streu    an_1      an_2     {Ls}   
G_diode    an_2      KATODE   VALUE = {(V(1)-I(V_mess))/TM}
**********************************************************************
***  HILFSNETZWERK  ***
**********************************************************************
*
E_e        1         0        TABLE { V(an_2,KATODE)*TT } = (-1k,-1e-14) (0,0) (10,10K)
R_dif      1         2        {(TT+TM)/TT}
L_dif      2         3        {TM}  IC=0
V_mess     3         0        0V
**********************************************************************
***  SPERRSCHICHTKAPAZITAET  ***
**********************************************************************
*
D_kap      an_2      KATODE   D_Sperr
.MODEL     D_Sperr   D(IS={Is} CJO={Cjc} VJ={Vj} M={Mj} N={N} Rs=0.001 FC=1 BV={BV})
**********************************************************************
.ends
*
*
**********************************************************************
**********************************************************************
.SUBCKT BYP302   ANODE    KATODE    PARAMS:
+
+TT        =         200n     ; bestimmt Hoehe der Rueckstromspitze
+TM        =         150n     ; bestimmt Abrissteilheit des Rueckstroms
+VTA       =         0.026    ; Vta = K*T/q
+Is        =         .8e-5    ; Abschaetzen aus der Diodenkennlinie
+N         =         2        ;    "   "   "   "   "   "   "   "
+R_reih    =         25m      ;    "   "   "   "   "   "   "   "
+Cjc       =         1.1nF    ; Dem Datenblatt zu entnehmen
+Mj        =         .7       ; default
+Vj        =         .6       ; default
+Ls        =         1n       ; parasitaere Induktivitaet
+Rs        =         1        ; parasitaerer Widerstand
+BV        =         1200     ; Blockierspannung
**********************************************************************
*
R_diode    ANODE     an_1     {R_reih}
L_streu    an_1      an_2     {Ls}   
G_diode    an_2      KATODE   VALUE = {(V(1)-I(V_mess))/TM}
**********************************************************************
***  HILFSNETZWERK  ***
**********************************************************************
*
E_e        1         0        TABLE { V(an_2,KATODE)*TT } = (-1k,-1e-14) (0,0) (10,10K)
R_dif      1         2        {(TT+TM)/TT}
L_dif      2         3        {TM}  IC=0
V_mess     3         0        0V
**********************************************************************
***  SPERRSCHICHTKAPAZITAET  ***
**********************************************************************
*
D_kap      an_2      KATODE   D_Sperr
.MODEL     D_Sperr   D(IS={Is} CJO={Cjc} VJ={Vj} M={Mj} N={N} Rs=0.001 FC=1 BV={BV})
**********************************************************************
.ends
*
*
**********************************************************************
**********************************************************************
.SUBCKT BYP301   ANODE    KATODE    PARAMS:
+
+TT        =         200n     ; bestimmt Hoehe der Rueckstromspitze
+TM        =         150n     ; bestimmt Abrissteilheit des Rueckstroms
+VTA       =         0.026    ; Vta = K*T/q
+Is        =         .5e-5    ; Abschaetzen aus der Diodenkennlinie
+N         =         2        ;    "   "   "   "   "   "   "   "
+R_reih    =         25m      ;    "   "   "   "   "   "   "   "
+Cjc       =         .7nF    ; Dem Datenblatt zu entnehmen
+Mj        =         .7       ; default
+Vj        =         .6       ; default
+Ls        =         1n       ; parasitaere Induktivitaet
+Rs        =         1        ; parasitaerer Widerstand
+BV        =         1200     ; Blockierspannung
**********************************************************************
*
R_diode    ANODE     an_1     {R_reih}
L_streu    an_1      an_2     {Ls}   
G_diode    an_2      KATODE   VALUE = {(V(1)-I(V_mess))/TM}
**********************************************************************
***  HILFSNETZWERK  ***
**********************************************************************
*
E_e        1         0        TABLE { V(an_2,KATODE)*TT } = (-1k,-1e-14) (0,0) (10,10K)
R_dif      1         2        {(TT+TM)/TT}
L_dif      2         3        {TM}  IC=0
V_mess     3         0        0V
**********************************************************************
***  SPERRSCHICHTKAPAZITAET  ***
**********************************************************************
*
D_kap      an_2      KATODE   D_Sperr
.MODEL     D_Sperr   D(IS={Is} CJO={Cjc} VJ={Vj} M={Mj} N={N} Rs=0.001 FC=1 BV={BV})
**********************************************************************
.ends

