* Library for Sipmos-IGBT / BUPxxx
*
* Copyright: SIEMENS AG ZT KM 6
****************************************************************
* Models provided by SIEMENS are not warranted by SIEMENS as    
* fully representing all of the specifications and operating    
* characteristics of the semiconductor product to which the     
* model relates. The model describe the characteristics of a     
* typical device.                                                
* In all cases, the current data sheet information for a given  
* device is the final design guideline and the only actual      
* performance specification.                                    
* Altough models can be a useful tool in evaluating device      
* performance, they cannot model exact device performance under 
* all conditions, nor are they intended to replace bread-       
* boarding for final verification. SIEMENS therefore does not   
* assume any liability arising from their use.                  
* SIEMENS reserves the right to change models without prior      
* notice.                                                       
*                                                                
* content:									     
* BUP203	release 7/23/97							
* This model is solely valid at room-temperature            	
* 								
* The basics of the IGBT model used in this template can be	
* found in							
*	R. Kraus, K. Hoffmann, P. Türkes			
*	Analysis and modelling of the technology dependent	 
*	electro-thermal IGBT characteristics			
*	IPEC'95 Proceedings, Yokohama 1995			
* and the papers cited therein				
*								
*****************************************************************
* Halfbridge Configuration, Pins labeled according to data-book 
*                                                               
* Include for Simulation:				        
* .LIB "bupxx.lib"  (PSPICE)				        
*
* 
* call for simulation:	                                  
* X_BUP  anode gate katode		BUP203 (PSPICE)	     
*---------------------------------------------------------------*

***********************
* IGBT model for PSPICE
***********************
* NPT-IGBT
*********
.SUBCKT BUP203 ano gate kat
****************************
* Parameters of BUP203 Chip at room-temperature
* units cm, s, A, V
.PARAM 
+q  = 1.6E-19   eps0 = 8.85E-14     epsi = 11.8
+un = 1350      up = 450
+A = 0.185      Agd = 0.11          wb = 220E-4      
+Nb = 8E13      taub = 100u         ni =1.5E10 
+Ise = 9E-12    Cje = 0.62n         Cjs = 0.25n
+Vth = 6.5      Kp = 1.7
+Cox = 4.4n     Cgs = 1.2n
+Rs = 0.8m        Rg = 5  
*******************************
MFET	d g s s 	MOS
DE	ano e1 		D1
DS	kat d		D2		
**************************
.MODEL	MOS	NMOS	(LEVEL=1,VTO={VTH},KP={KP})
.MODEL 	D1	D	(IS={ISE},CJO={CJE})
.MODEL	D2	D	(IS={ISE},CJO={CJS},TT={Taub})
*******************************************
RG	gate g		{Rg}
RS	s kat		{Rs}
CGS	g s		{Cgs}
COX	g ox		{Cox}
*****************************
* voltage across depletion region below gate:
EDEP	d ox	VALUE = {Vdep(V(d,g))}
* current through base resistor:
GIA	e d1	VALUE = {V(e,d1)/Rb(V(b))}
* collector (hole) current:
GIC	d1 kat	VALUE = {IPC(I(VINC),V(b),V(d1,kat),I(VDXJ))}
*****************************************
* subcircuit for base charge:
*****************************
CQB	b 0	1u
RQB	b 0	{Taub/1u}
GINC	0 b	VALUE	{I(VINC)}
GINE	b 0	VALUE	{INE(I(VINC),V(b),V(d1,kat),I(VDXJ))}
*************************************************
*EQb0	q0 0	VALUE	{Qb0(I(VINC),V(b),V(d1,kat))*1e6}
*RQb0	q0 0 	1k
*EQS0	qs 0	VALUE	{QS0(V(d1,kat))*1e6}
*RQS0	qs 0	1k
*ETd	t 0	VALUE	{Td(V(d1,kat))*1e6}
*RTd	t 0	1k
* I(VDXJ) = dxj/dt
EXJ	xj1 0	VALUE	{1e6*xj(V(d1,kat))}
CXJ	xj  0	1u
VDXJ	xj1 xj	0
EX	dx2 0	VALUE	{DDT(xj(V(d1,kat)))}
RX	dx2 0	1
************************************************************
* current probes:
*****************
* I(VIA) = anode current
VIA	e1 e	0
* I(VINC) = electron current at collector
VINC	d1 d	0
*****************
.PARAM	D  = {2*0.026*un*up/(un+up)}
.PARAM	L  = {SQRT(D*Taub)}	
.PARAM 	Q0 = {q*A*wb*Nb}
.PARAM	VPT= {q*Nb*wb*wb/(2*eps0*epsi)}
.PARAM	VN = {q*Nb*eps0*epsi*(Agd/Cox)*(Agd/Cox)}
.PARAM	XF = {SQRT(2*eps0*epsi/(q*Nb))}
*************************************************
.FUNC	Vdep(X)	{MAX(X,0)+VN*(1-SQRT(1+2*MAX(X,0)/VN))}
.FUNC	Rb(X)	{wb*wb*LOG(1+2E-6*(1+up/un)*MAX(X,1m*Q0)/Q0)/(2E-6*(un+up)*MAX(X,1m*Q0))}
.FUNC	xj(V)	{XF*SQRT(1+V)}
.FUNC	FDX(V,X)	{TANH((wb-xj(V))*LIMIT(X,-1e6,1e6)/(12*D))}
.FUNC	Td(V,X)	{(0.1/D)*(wb-xj(V))*(wb-xj(V))*(1-FDX(V,X))}
.FUNC	F1(V)	{Taub*COSH((wb-xj(V)+1e-6)/L)-1}
.FUNC	F2(V,X)	{0.5*(1+2*FDX(V,X)/(1+FDX(V,X)*FDX(V,X)))}
.FUNC	F3(V,X)	{1+Td(V,X)/Taub}
.FUNC	QS0(V)	{q*A*L*ni*TANH(0.5*(wb-xj(V))/L)}
.FUNC	Qbd(Y,Z,V,X)	{MAX(Z*1e-6+Td(V,X)*Y,0)}
.FUNC	Qb0(Y,Z,V,X)	{2*Qbd(Y,Z,V,X)/(F3(V,X)+SQRT(F3(V,X)*F3(V,X)+Td(V,X)*3*ISE*Qbd(Y,Z,V,X)/(QS0(V)*QS0(V))))}
.FUNC	INE(Y,Z,V,X)	{0.75*ISE*(Qb0(Y,Z,V,X)/QS0(V))*(Qb0(Y,Z,V,X)/QS0(V))}
.FUNC	IPC(Y,Z,V,X)	{(1/3)*Y+(4/3)*(Qb0(Y,Z,V,X)/F1(V)+MAX(Qb0(Y,Z,V,X)/Taub+INE(Y,Z,V,X)-Y,0)*F2(V,X))}
****************************************************************
.ENDS

